US04415751
4-hydroxy-α-methylphenylacetic acid
A 13.6 g. portion of 4-hydroxyacetophenone was dissolved in 50 ml. of dimethylformamide, and 0.1 g. of sodium hydroxide and 2.5 g. of 5% palladium-on-carbon hydrogenation catalyst was added. The mixture was placed in a Parr hydrogenator at 45° for 3.5 hours, with shaking, and was then shaken at ambient temperature for 16.5 hours. The mixture was then filtered to remove the catalyst, and the solution was added to 5.4 g. of sodium cyanide in a Pyrex flask. The mixture was stirred at 130° for 6 hours, and was then evaporated under vacuum to obtain an oily residue. The residue was dissolved in 38 ml. of 50% aqueous sodium hydroxide and 38 ml. of water, and was stirred under reflux for 8 hours. Its pH was then adjusted to 2.0 with concentrated hydrochloric acid, 50 ml. of water was added, and the mixture was heated to reflux. It was filtered at the reflux temperature through a filter aid pad, and the filtrate was cooled and extracted twice with 125 ml. portions of ethyl acetate. The organic layers were combined and evaporated under vacuum to an oil. To it was added 50 ml. of toluene, followed by 50 ml. of hexane. The product crystallized within a few minutes, and the suspension was stirred for 1 hour before it was filtered. The solids were dried under vacuum at 40° to obtain 14.5 g. of the desired product, identical to that of Example 1. Its melting point was 127°-129°, and the yield was 85.8% of the theoretical yield.

reactant | 4-hydroxyacetophenone | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | water | O | H2O
product | 4-hydroxy-α-methylphenylacetic acid | yield was 85.8% | OC1=CC=C(C=C1)C(C(=O)O)C | C9H10O3
